US07579469B2
To a suspension of lithium aluminum hydride (0.75 g) in THF (20 mL) stirred under nitrogen was added dropwise a solution of methyl 3-methyl-3-(2-methoxy-5-fluorophenyl)butanoate (4.2 g) dissolved in THF (10 mL). The mixture was stirred at room temperature for 4 hours. The reaction was quenched by cautious addition of water (1 mL) and diluted with ether (100 mL). The mixture was filtered through FLORISIL® selective adsorbent and evaporated to dryness in vacuo to give 3-methyl-3-(2-methoxy-5-fluorophenyl)butan-1-ol as an oil (3.30 g, 89%).

reactant | lithium aluminum hydride | 0.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-methyl-3-(2-methoxy-5-fluorophenyl)butanoate | 4.2 g | CC(CC(=O)OC)(C)C1=C(C=CC(=C1)F)OC | C13H17FO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-methyl-3-(2-methoxy-5-fluorophenyl)butan-1-ol | 3.30 g, 89% | CC(CCO)(C)C1=C(C=CC(=C1)F)OC | C12H17FO2
